US06716851B2
4-(2,5-Dimethylanilino)-2,6-di(2-pyridinyl)pyrimidine
The title compound was prepared from a mixture 4-chloro-2,6-di(2-pyridinyl)pyrimidine (25 mg, 0.093 mmol) and 2,5-dimethylaniline (17 μl, 0.140 mmol) similar to Example 111 and isolated as a yellow oil (7 mg, 21%). 1H NMR (CDCl3): 8.88-8.86 (m, 1H), 8.71-8.68 (m, 1H), 8.64-8.58 (m, 2H), 7.92-7.82 (m, 2H), 7.50 (s, 1H), 7.43-7.32 (m, 2H), 7.23 (s, 1H), 7.21 (d, J=7.5 Hz, 1H), 7.09 (s, 1H), 7.04 (dd, J=1.8, 7.8 Hz, 1H), 2.36 (s, 3H), 2.27 (s, 3H).

reactant | 4-chloro-2,6-di(2-pyridinyl)pyrimidine | 0.093 mmol, 25 mg | ClC1=NC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C14H9ClN4
reactant | 2,5-dimethylaniline | 0.140 mmol, 17 μl | CC1=C(N)C=C(C=C1)C | C8H11N
product | 4-(2,5-Dimethylanilino)-2,6-di(2-pyridinyl)pyrimidine | CC1=C(NC2=NC(=NC(=C2)C2=NC=CC=C2)C2=NC=CC=C2)C=C(C=C1)C | C22H19N5
